US09422247B2
I. 6-Ethyl-4-methylpyrimidine-2-ol-1-oxide hydrochloride
0.12 mol (9.13 g) hydroxy urea were dissolved in 50 ml 2 M HCl, 20 ml of methanol were added and 0.10 mol (11.41 g) 2,4-hexanedione were added dropwise under cooling by approximately −15° C. Further 30 ml of water and 10 ml of methanol were added. The two-phase reaction mixture was allowed to warm up slowly to room temperature and was stirred at room temperature for further 2 h, then evaporated until dryness. The residue was suspended with 50 ml of acetone, the mixture was cooled in an ice/ethanol bath, the solid filtered off and washed with a little ice-cold acetone. After drying 7.88 g crude product were obtained which were recrystallized from 45 ml ethanol wherefrom first an insoluble salt compound was hot filtered off and the product was subsequently recrystallized from the filtrate at −18° C. 3.0 g product were obtained which were again recrystallized from 28 ml ethanol. Finally 2.26 g of the title compound were obtained.

reactant | hydroxy urea | 0.12 mol, 9.13 g | ONC(=O)N | CH4N2O2
reactant | methanol | 20 ml | CO | CH4O
reactant | 2,4-hexanedione | 0.10 mol, 11.41 g | CC(CC(CC)=O)=O | C6H10O2
reactant | water | 30 ml | O | H2O
reactant | methanol | 10 ml | CO | CH4O
reactant | HCl | 2 M, 50 ml | Cl | ClH
product | 6-Ethyl-4-methylpyrimidine-2-ol-1-oxide hydrochloride | 3.0 g | Cl.C(C)C=1C=C(N=C([N+]1[O-])O)C | InChI=1S/C7H10N2O2.ClH/c1-3-6-4-5(2)8-7(10)9(6)11;/h4H,3H2,1-2H3,(H,8,10);1H
